US04725615
[4-(Phenylmethoxy)phenyl]hydrazine hydrochloride
A solution of sodium nitrite (16.1 g) in water was added dropwise over a period of ca 0.75 h to a cold (salt-ice bath) stirred suspension of 4-benzyloxyaniline hydrochloride (50 g) in concentrated hydrochloric acid (120 ml). The temperature was kept between -6° and -12° during the addition and stirring was continued for 1 h at the same temperature. The mixture was filtered (Hyflo) and the filtrate cooled to ca -18°. The solution of the diazonium salt was then added to a cold (-12°) stirred solution of tin (II) chloride dihydrate (157.9 g) in concentrated hydrochloric acid (400 ml) over a period of ca 0.5 h. During the addition the temperature gradually rose to 0°, and subsequently stirring was continued for 2 h while allowing the reaction mixture to reach room temperature. Filtration of the suspension afforded a solid. This material was washed with anhydrous ether (750 ml) and dried at room temperature for ca 16 h to present the title compound as a powder (34.4 g) m.p. 165°-170°. T.l.c. (E), Rf 0.5.

reactant | sodium nitrite | 16.1 g | N(=O)[O-].[Na+]
reactant | 4-benzyloxyaniline hydrochloride | 50 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
solvent | water | O | H2O
solvent | hydrochloric acid | 120 ml | Cl | ClH
product | [4-(Phenylmethoxy)phenyl]hydrazine hydrochloride | Cl.C1(=CC=CC=C1)COC1=CC=C(C=C1)NN | InChI=1S/C13H14N2O.ClH/c14-15-12-6-8-13(9-7-12)16-10-11-4-2-1-3-5-11;/h1-9,15H,10,14H2;1H
